US08445510B2
trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylic acid
A solution of ethyl trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate (20.0 mg, 0.0371 mmol) in MeOH (3 mL, 70 mmol) was added lithium hydroxide (4.44 mg, 0.186 mmol) and H2O (1 mL, 60 mmol). The mixture was stirred at rt for 2 h. The organic solvent was removed in vacuo, and the material was extracted with DCM and water (pH=2). The organic layer was concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z=511.19/513.19 (100/50) [MH+]. HPLC: tR=1.44 min (polar—3 min, UPLC-ACQUITY).

reactant | ethyl trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylate | 0.0371 mmol, 20.0 mg | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)OCC | C29H32ClFN4O3
reactant | MeOH | 70 mmol, 3 mL | CO | CH4O
reactant | lithium hydroxide | 0.186 mmol, 4.44 mg | [OH-].[Li+]
reactant | H2O | 60 mmol, 1 mL | O | H2O
product | trans-4-(4-{3-[(1S)-1-(2-Chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-5-methyl-1H-pyrazol-1-yl)cyclohexanecarboxylic acid | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)O | C27H28ClFN4O3
